US04769368
Using the methods described above and starting with 1-aminomethyl-5-bromo-4-methoxyindan, 7-bromo-6-methoxy-2,3,4,8,9,9a-hexahydro-4-phenyl-1H-indeno[1,7-cd]azepine is prepared. This intermediate is N-methylated using formic acid-formaldehyde to give cis, trans-7-bromo-6-methoxy-2-methyl-2,3,4,8,9,9a-hexahydro-4-phenyl-1H-indeno[1,7-cd]azepine hydrobromide and, after demethylation using boron tribromide, cis or trans-7-bromo-6-hydroxy-2-methyl-2,3,4,8,9,9a-hexahydro-4-phenyl-1H-indeno[1,7-cd]azepine.

reactant | 1-aminomethyl-5-bromo-4-methoxyindan | NCC1CCC2=C(C(=CC=C12)Br)OC | C11H14BrNO
reactant | 7-bromo-6-methoxy-2,3,4,8,9,9a-hexahydro-4-phenyl-1H-indeno[1,7-cd]azepine | BrC=1CCC2CCC=3CN(C=C(C1C32)OC)C3=CC=CC=C3 | C19H20BrNO
reactant | formic acid formaldehyde | C(=O)O.C=O
product | trans-7-bromo-6-methoxy-2-methyl-2,3,4,8,9,9a-hexahydro-4-phenyl-1H-indeno[1,7-cd]azepine hydrobromide | Br.BrC=1CC[C@H]2C[C@H](C=3CN(C=C(C1C32)OC)C3=CC=CC=C3)C | InChI=1S/C20H22BrNO.BrH/c1-13-10-14-8-9-17(21)20-18(23-2)12-22(11-16(13)19(14)20)15-6-4-3-5-7-15;/h3-7,12-14H,8-11H2,1-2H3;1H/t13-,14+;/m1./s1
